US04970219
1-Acetyl-N-(4-amino-3-pyridinyl)-2,3-dihydro-1H-indol-5-amine
A suspension of 1-acetyl-2,3-dihydro-N-(4-nitro-3-pyridinyl)-1H-indole-5-amine, N5 -oxide (13 g) in 250 ml ethanol containing 0.5 g PtO2 was hydrogenated for two days at 60 psi and thereafter filtered through Celite and concentrated to 9 g solid. This solid was purified by HPLC (silica, 20% methanol in ethyl acetate) to give 4 g solid. This was combined with 1 g product obtained from a previous reduction and again purified by HPLC (silica, 20% methanol in ethyl acetate) to give 5 g solid, m.p. 210°-212°. This solid was recrystallized from acetonitrile to give 4 g solid, m.p. 212°-214°.

reactant | 1-acetyl-2,3-dihydro-N-(4-nitro-3-pyridinyl)-1H-indole-5-amine | C(C)(=O)N1CCC2=CC(=CC=C12)NC=1C=NC=CC1[N+](=O)[O-] | C15H14N4O3
solvent | ethanol | 250 ml, 0.5 g | C(C)O | C2H6O
product | 1-Acetyl-N-(4-amino-3-pyridinyl)-2,3-dihydro-1H-indol-5-amine | 4 g | C(C)(=O)N1CCC2=CC(=CC=C12)NC=1C=NC=CC1N | C15H16N4O
